US06924278B2
To a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(carboxymethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine (120 mg) in tetrahydrofuran (1 ml) were added 1-hydroxybenzotriazole hydrate (176 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (240 mg) and morpholine (0.11 ml) at room temperature, and the mixture was stirred at room temperature overnight. The mixture was quenched with water, and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure. The residue was purified by column chromatography on a silica gel using a mixture of methanol and ethyl acetate (1:9) as eluent to give a crude oil (76.7 mg). The oil was dissolved in ethyl acetate (0.7 ml) and added 4N hydrogen chloride in ethyl acetate (0.15 ml) at room temperature. After the addition of isopropyl ether, the resulting precipitate was filtered off and dried under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(morpholinocarboxymethyl)-1H-pyrazol-4-yl]methyl]piperazine hydrochloride (40 mg) as a powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(carboxymethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine | 120 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CC(=O)O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H28F6N4O3
reactant | 1-hydroxybenzotriazole hydrate | 176 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 240 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | morpholine | 0.11 ml | N1CCOCC1 | C4H9NO
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 0.7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.15 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(morpholinocarboxymethyl)-1H-pyrazol-4-yl]methyl]piperazine hydrochloride | 40 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)C(C(=O)O)N2CCOCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H35F6N5O4.ClH/c1-20-3-4-22(11-21(20)2)12-27-19-40(17-23-16-39-43(18-23)28(30(45)46)41-7-9-47-10-8-41)5-6-42(27)29(44)24-13-25(31(33,34)35)15-26(14-24)32(36,37)38;/h3-4,11,13-16,18,27-28H,5-10,12,17,19H2,1-2H3,(H,45,46);1H/t27-,28?;/m1./s1
